US08030334B2
To a solution of {(R)-1-[5-(6-chloro-3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester (140 mg, 0.3 mmol) in dichloromethane (5 mL) is added TFA (2 mL) and the mixture is stirred at room temperature for 2 h. The solvents are then removed in vacuo and the residue is purified by Xbridge C18 with a gradient of acetonitrile in 0.1% NH4OH to give 2-[5-((R)-3-amino-pyrrolidin-1-ylmethyl)-pyridin-3-yl]-6-chloro-1-methyl-1H-indole-3-carbonitrile. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.33-1.43 (m, 1H), 1.64 (br. s., 2H), 1.97-2.08 (m, 1H), 2.21 (dd, J=9.0, 4.9 Hz, 1H), 2.59-2.68 (m, 1H), 2.71 (dd, J=9.1, 6.6 Hz, 1H), 3.32-3.39 (m, 1H), 3.72 (q, J=13.6 Hz, 2H), 3.79 (s, 3H), 7.36 (dd, J=8.3, 1.8 Hz, 1H), 7.72 (d, J=8.6 Hz, 1H), 7.96 (d, J=1.5 Hz, 1H), 8.05 (t, J=2.0 Hz, 1H), 8.72 (d, J=2.0 Hz, 1H), 8.77 (d, J=2.3 Hz, 1H). HRMS (ESI) m/z 366.1483 [(M+H)+ Calcd for C20H21ClN5: 366.1485].

reactant | {(R)-1-[5-(6-chloro-3-cyano-1-methyl-1H-indol-2-yl)-pyridin-3-ylmethyl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | 0.3 mmol, 140 mg | C(C)(C)(C)OC(N[C@H]1CN(CC1)CC=1C=NC=C(C1)C=1N(C2=CC(=CC=C2C1C#N)Cl)C)=O | C25H28ClN5O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[5-((R)-3-amino-pyrrolidin-1-ylmethyl)-pyridin-3-yl]-6-chloro-1-methyl-1H-indole-3-carbonitrile | N[C@H]1CN(CC1)CC=1C=C(C=NC1)C=1N(C2=CC(=CC=C2C1C#N)Cl)C | C20H20ClN5
